US08536210B2
3-(4,5-Diphenyl-1,3-oxazol-2-yl)-propionaldehyde O-benzyl-oxime (compound 45)
The process described in Method A was followed. 3-(4,5-Diphenyl-1,3-oxazol-2-yl)propanal (416 mg, 1.5 mmol, see Pridgen L. N. et al in Tetrahedron Lett., 25(27), 2835 (1984)) and O-benzylhydroxylamine hydrochloride (319 mg, 2.0 mmol) were used to obtain the title compound.

reactant | 3-(4,5-Diphenyl-1,3-oxazol-2-yl)propanal | 1.5 mmol, 416 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCC=O | C18H15NO2
reactant | O-benzylhydroxylamine hydrochloride | 2.0 mmol, 319 mg | Cl.C(C1=CC=CC=C1)ON
product | 3-(4,5-Diphenyl-1,3-oxazol-2-yl)-propionaldehyde O-benzyl-oxime | C(C1=CC=CC=C1)ON=CCCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
